US09216999B2
4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide
4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (480 mg, 1.47 mmol) in thionyl chloride (3 mL) was stirred at room temperature for 2 hours. After addition of toluene, the reaction mixture was concentrated under reduced pressure, and after addition of toluene, concentrated under reduced pressure. The residue was dissolved in dichloromethane (5 mL), and ammonia-methanol solution (7.0 M, 1.0 mL, 7.0 mmol) was added dropwise, and the resulting reaction mixture was stirred for 1 hour. After addition of saturated aqueous sodium chloride, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound as a colorless solid (461 mg, yield 96%).

reactant | 4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 1.47 mmol, 480 mg | ClC1=C2C(=NC=C1C(=O)O)N(C=C2)COCC[Si](C)(C)C | C14H19ClN2O3Si
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ammonia methanol | 7.0 mmol, 7.0 M, 1.0 mL | N.CO
reactant | sodium chloride | [Cl-].[Na+]
solvent | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-Chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide | 461 mg, yield 96% | ClC1=C2C(=NC=C1C(=O)N)N(C=C2)COCC[Si](C)(C)C | C14H20ClN3O2Si
